US05081245
Epichlorohydrin (74.0 g), stearyl alcohol (54.2 g) and cetyltrimethylammonium chloride (3.2 g) were dissolved in toluene (120 ml). To this solution, a 50% aqueous solution of sodium hydroxide (80 g) was added, followed by stirring at 65° C. for 30 minutes. To this mixture, hexane (80 ml) was added, followed by stirring at 65° C. for 3.5 hours. The reaction mixture was then diluted with hexane (700 ml), followed by filtration to remove the insoluble material. The resulting filtrate was concentrated under reduced pressure to yield crude 1,2-epoxy-3-octadecyloxypropane. The entire amount of this crude product and diethylene glycol (235 g) were dissolved in dioxane (350 ml). To this solution, 60% oily sodium hydride (1.20 g) was added, followed by stirring at room temperature for 30 minutes. The reaction mixture was then heated at 110° C. for 13 hours. After cooling, acetic acid (1.8 g) was added and the dioxane was distilled off under reduced pressure. The resulting residue was dissolved in a mixture of hexane-ether-water. After the organic layer was collected and dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure to yield crude 2-[2-[(2-hydroxy-3-octadecyloxy)propoxy]ethoxy]ethanol. This crude product was dissolved in pyridine (300 ml). To this solution, trityl chloride (82 g) was added, followed by stirring at 80° C. for 2 hours. Methanol (10 ml) was then added, followed by stirring under the same conditions as above for 30 minutes. The solvent was distilled off under reduced pressure. The resulting residue was purified by silica gel column chromatography (carrier 1.7 kg; developing solvent, hexane:ethyl acetate=6:1→3:1) to yield the desired compound (80.0 g).

reactant | Epichlorohydrin | 74.0 g | C(Cl)C1CO1 | C3H5ClO
reactant | stearyl alcohol | 54.2 g | C(CCCCCCCCCCCCCCCCC)O | C18H38O
reactant | sodium hydroxide | 80 g | [OH-].[Na+]
catalyst | cetyltrimethylammonium chloride | 3.2 g | [Cl-].C(CCCCCCCCCCCCCCC)[N+](C)(C)C
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | 700 ml | CCCCCC | C6H14
solvent | hexane | 80 ml | CCCCCC | C6H14
product | 1,2-epoxy-3-octadecyloxypropane | O1CC1COCCCCCCCCCCCCCCCCCC | C21H42O2
